US07230007B2
b) Bis[1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic]anhydride
0.52 cm3 (6 mmol) of oxalyl chloride was added, under an argon atmosphere, to 1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid in 15 cm3 of dichloromethane. After stirring at a temperature in the region of 20° C. for 300 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa). The residue was triturated with 20 cm3 of dichloromethane, filtered and pulled dry, and then the solid was washed with 50 cm3 of distilled water to give, after drying, 0.13 g of bis[1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic]anhydride in the form of a powder which was used directly in the following stage. IR spectrum (KBr): 3116, 2926, 1767, 1705, 1592, 1537, 1421, 1294, 1177, 1151, 1083, 999, 962, 775, 551 and 532 cm−1.

reactant | oxalyl chloride | 6 mmol, 0.52 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | CS(=O)(=O)C1=CC=C(C=C1)N1C=C(C=2C1=NC=CC2)C(=O)O | C15H12N2O4S
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | Bis[1-(4-(methylsulfonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic]anhydride | CS(=O)(=O)C1=CC=C(C=C1)N1C=C(C=2C1=NC=CC2)C(=O)OC(=O)C2=CN(C1=NC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)C | C30H22N4O7S2
